US04207317
The mixture of 0.6 g of 1-(3,4-dichlorophenyl)-3-methyl-4-carbethoxy-2-pyrazolin-5-one, 0.31 g of 3,4-dichloroaniline and 40 ml of xylene is distilled for a few minutes, refluxed 20 minutes and distilled again a few minutes. The cooled solution deposits crystals, which are collected, washed with benzene and recrystallized from ethyl acetate to yield the 1-(3,4-dichlorophenyl)-3-methyl-4-(3,4-dichlorophenylcarbamoyl)-2-pyrazolin-5-one, melting at 255°-257° (dec.).

reactant | 1-(3,4-dichlorophenyl)-3-methyl-4-carbethoxy-2-pyrazolin-5-one | 0.6 g | ClC=1C=C(C=CC1Cl)N1N=C(C(C1=O)C(=O)OCC)C | C13H12Cl2N2O3
reactant | 3,4-dichloroaniline | 0.31 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3,4-dichlorophenyl)-3-methyl-4-(3,4-dichlorophenylcarbamoyl)-2-pyrazolin-5-one | ClC=1C=C(C=CC1Cl)N1N=C(C(C1=O)C(NC1=CC(=C(C=C1)Cl)Cl)=O)C | C17H11Cl4N3O2
